US08293768B2
Synthesis of ethyl 2-(3-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)acetate
Following the procedure as described in Example 5, making variations to replace benzyl bromide with ethyl bromoacetate to react with N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide, the title compound was obtained as a white solid in 38% yield: 1H NMR (300 MHz, CDCl3) δ 7.39-7.27 (m, 5H), 5.87 (t, J=5.4 Hz, 1H), 4.57 (d, J=5.4 Hz, 2H), 4.27-4.13 (m, 4H), 4.08 (s, 2H), 3.76-3.68 (m, 2H), 2.63 (s, 3H), 1.29 (t, J=7.1 Hz, 3H); MS (ES+) m/z 403.2 (M+1).

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C15H16N4O2S
product | ethyl 2-(3-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)acetate | 38% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC(=O)OCC)=O)C | C19H22N4O4S
